US09255089B2
6-(3,5-dimethylisoxazol-4-yl)-4-(1-hydroxy-1-(pyridin-2-yl)propyl)-1H-benzo[d]imidazol-2(3H)-one
(6-(3,5-dimethylisoxazol-4-yl)-2-ethoxy-1H-benzo[d]imidazol-4-yl)(pyridin-2-yl)methanone (20 mg, 0.055 mmol) was dissolved in dry THF (0.5 mL) and ethylmagnesium bromide (1.0 M, 0.27 mL, 0.27 mmol) was added dropwise. The reaction was allowed to stir at r.t. for 10 minutes and then a mixture of EtOH (1 mL) and 4.0M HCl/dioxane (0.5 mL) was added and the reaction was heated to 65° C. for 3 hours. The reaction was concentrated and purified by reverse-phase HPLC to afford the desired product as a white powder.

reactant | (6-(3,5-dimethylisoxazol-4-yl)-2-ethoxy-1H-benzo[d]imidazol-4-yl)(pyridin-2-yl)methanone | 0.055 mmol, 20 mg | CC1=NOC(=C1C=1C=C(C2=C(NC(=N2)OCC)C1)C(=O)C1=NC=CC=C1)C | C20H18N4O3
reactant | ethylmagnesium bromide | 0.27 mmol, 1.0 M, 0.27 mL | C(C)[Mg]Br
reactant | EtOH | 1 mL | CCO | C2H6O
reactant | HCl dioxane | 4.0M, 0.5 mL | Cl.O1CCOCC1
solvent | THF | 0.5 mL | C1CCOC1 | C4H8O
product | 6-(3,5-dimethylisoxazol-4-yl)-4-(1-hydroxy-1-(pyridin-2-yl)propyl)-1H-benzo[d]imidazol-2(3H)-one | CC1=NOC(=C1C=1C=C(C2=C(NC(N2)=O)C1)C(CC)(C1=NC=CC=C1)O)C | C20H20N4O3
